US04931083
1-(4-chlorophenyl)-3-thiono-1,2,4-1H-triazole
Twelve g of 1-(4-chlorophenyl)thiosemicarbazide was suspended in 60 ml of 95% formic acid, and the mixture was stirred under reflux for 24 hours. The mixture was then cooled, and the product precipitated. It was collected and washed with cold denatured ethanol, and was dried to obtain 6.1 g of the desired intermediate, m.p. 222°-224°.

reactant | 1-(4-chlorophenyl)thiosemicarbazide | ClC1=CC=C(C=C1)NNC(=S)N | C7H8ClN3S
reactant | formic acid | 60 ml | C(=O)O | CH2O2
product | 1-(4-chlorophenyl)-3-thiono-1,2,4-1H-triazole | 6.1 g | ClC1=CC=C(C=C1)N1NC(N=C1)=S | C8H6ClN3S
